US09233956B2
Step A: Methyl 3-{[(2,5-difluorophenyl)sulfonyl]amino}benzoate
Following a procedure analogous to the procedure described in Intermediate 5, Step A using methyl 3-aminobenzoate (16 g, 105.9 mmol) in DCM (150 mL) and 2,5-difluorobenzene-1-sulfonyl chloride (24.7 g, 116.5 mmol) the title compound was obtained (25.6 g, 73.8% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.06-11.13 (br, 1H), 7.42-7.52 (m, 2H), 7.52-7.77 (m, 4H), 7.78-7.80 (m, 1H), 3.88 (s, 3H).

reactant | methyl 3-aminobenzoate | 105.9 mmol, 16 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | 2,5-difluorobenzene-1-sulfonyl chloride | 116.5 mmol, 24.7 g | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-{[(2,5-difluorophenyl)sulfonyl]amino}benzoate | 73.8% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C=C(C(=O)OC)C=CC1 | C14H11F2NO4S
